US06869954B2
Preparation of 4-[3-[N,N-bis(2-hydroxyethyl)amino]propyl]-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(3-methanesulfonyloxypropyl)-2H-pyridazin-3-one and diethanolamine were reacted to yield the title compound as a yellow oil (yield: 13.1%).

reactant | 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(3-methanesulfonyloxypropyl)-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)CCCOS(=O)(=O)C)C1=CC(=C(C=C1)OC)F | C19H23FN2O5S
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 4-[3-[N,N-bis(2-hydroxyethyl)amino]propyl]-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 13.1% | OCCN(CCO)CCCC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC1CC1)=O | C22H30FN3O4
